US08110588B2
5-(4-Chloro-2-fluoro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (27)
To a stirred and ice-cooled solution of 1-azido-4-methoxy-benzene (2.000 g, 13.4090 mmol) and commercial (4-chloro-2-fluoro-phenyl)-acetonitrile (2.729 g, 16.0909 mmol) in absolute ethanol (30 ml), an ice-cooled solution of sodium methoxide (1.087 g, 20.1136 mmol) in absolute ethanol (20 ml) is added drop-wise. The resulting reaction mixture is evaporated and the residue is dissolved in methylene chloride and washed with water, brine, dried over MgSO4, filtered and evaporated to afford ˜4.3 g of crude material as brownish solid. This crude product is purified by column chromatography eluting with 25-35% ethyl acetate in hexane, to obtain the title compound as a yellow solid (0.140 g, 3.25% yield). M.p. 147.9-149.5° C. LC-ESI-HRMS of [M+H]+ shows 319.0779 Da. Calc. 319.076192 Da, dev. 5.4 ppm

reactant | 1-azido-4-methoxy-benzene | 13.4090 mmol, 2.000 g | N(=[N+]=[N-])C1=CC=C(C=C1)OC | C7H7N3O
reactant | (4-chloro-2-fluoro-phenyl)-acetonitrile | 16.0909 mmol, 2.729 g | ClC1=CC(=C(C=C1)CC#N)F | C8H5ClFN
reactant | sodium methoxide | 20.1136 mmol, 1.087 g | C[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(4-Chloro-2-fluoro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.140 g, 3.25% yield | ClC1=CC(=C(C=C1)C1=C(N(N=N1)C1=CC=C(C=C1)OC)N)F | C15H12ClFN4O
